US07547701B2
Synthesis of N-(4-cyano-1,1-dioxohexahydro-1λ6-thiopyran-4-yl)-3-(4-fluorophenyl-methanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)propionamide
N-(4-cyanotetrahydrothiopyran-4-yl)-3-(4-fluorophenylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)propionamide (24 mg) was weighed into a 25 mL pear flask fitted with a stir bar and vented cap. Methanol (4.75 mL) was added and the reaction mixture was stirred at 50° C. to obtain a clear colorless solution. OXONE® (0.43 mL of a 0.30M aqueous solution) was added. A white precipitate formed. After 2 h, methanol was removed on a rotary evaporator and the residue was partitioned between 10 mL water and 10 mL dichloromethane. The organic phase was separated, washed with water and brine and dried over anhydrous MgSO4 and concentrated to give the title compound (16 mg) as a white solid.

reactant | N-(4-cyanotetrahydrothiopyran-4-yl)-3-(4-fluorophenylmethanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)propionamide | 24 mg | C(#N)C1(CCSCC1)NC([C@H](CS(=O)(=O)CC1=CC=C(C=C1)F)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C24H24F5N3O3S2
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | Methanol | 4.75 mL | CO | CH4O
product | N-(4-cyano-1,1-dioxohexahydro-1λ6-thiopyran-4-yl)-3-(4-fluorophenyl-methanesulfonyl)-2(R)-(2,2,2-trifluoro-1(S)-4-fluorophenylethylamino)propionamide | 16 mg | C(#N)C1(CCS(CC1)(=O)=O)NC([C@H](CS(=O)(=O)CC1=CC=C(C=C1)F)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C24H24F5N3O5S2
